US06423713B1
5-[N-(2-methylthiazolyl)-4-piperidyl]-4-(4-pyridyl)-3-(4-chlorophenyl)pyrazole
To a suspension of 5-(4-piperidyl)-4-(4-pyridyl)-3-(4-chlorophenyl)pyrazole hydrochloride (Example C-74) in 12 mL of MeOH was added trimethyl orthoformate (2.6 g, 24.4 mmol) and 2-thiazolecarboxaldehyde (1.4 g, 12.2 mmol). The suspension was stirred at room temperature for 2 h. To this mixture was added NaCNBH3 (1.5 g, 24.4 mmol) and the resulting suspension was stirred at room temperature for 7 days. The mixture was poured onto 2.5 N NaOH and was extracted with ethyl acetate (2×100 mL). The combined extracts were washed with brine (1×100 mL), dried over Na2SO4, filtered and concentrated to leave a solid. This solid was triturated with ether and filtered to afford the title compound: MS (M+H): 436 (base peak).

reactant | 5-(4-piperidyl)-4-(4-pyridyl)-3-(4-chlorophenyl)pyrazole hydrochloride | Cl.N1CCC(CC1)C1=C(C(=NN1)C1=CC=C(C=C1)Cl)C1=CC=NC=C1
reactant | trimethyl orthoformate | 24.4 mmol, 2.6 g | C(OC)(OC)OC | C4H10O3
reactant | 2-thiazolecarboxaldehyde | 12.2 mmol, 1.4 g | S1C(=NC=C1)C=O | C4H3NOS
reactant | NaCNBH3 | 24.4 mmol, 1.5 g | [BH3-]C#N.[Na+]
reactant | NaOH | 2.5 N | [OH-].[Na+]
solvent | MeOH | 12 mL | CO | CH4O
product | 5-[N-(2-methylthiazolyl)-4-piperidyl]-4-(4-pyridyl)-3-(4-chlorophenyl)pyrazole | CC=1SC=C(N1)N1CCC(CC1)C1=C(C(=NN1)C1=CC=C(C=C1)Cl)C1=CC=NC=C1 | C23H22ClN5S
